US05945382
0.95 g (0.011 mol) of isopropyl isocyanate are added, dropwise and at 0° C., to a solution of 2.55 g (0.01 mol) of 4-chloro-3-(3,5-dichlorophenyl)-1H-pyrazole and 1.55 ml (0.011 mol) of triethylamine in 20 ml of anhydrous DMF. Stirring is continued for 2 h at room temperature. The reaction mixture is poured into 100 ml of water and extracted with ethyl acetate. After drying the organic phase and concentration under vacuum, the residue is triturated with 50 ml of heptane, filtered and dried. We obtain 2.10 g of 1-isopropylaminocarbonyl-4-chloro-3-(3,5-dichlorophenyl)pyrazole, melting at 127° C.

reactant | isopropyl isocyanate | 0.011 mol, 0.95 g | C(C)(C)N=C=O | C4H7NO
reactant | 4-chloro-3-(3,5-dichlorophenyl)-1H-pyrazole | 0.01 mol, 2.55 g | ClC=1C(=NNC1)C1=CC(=CC(=C1)Cl)Cl | C9H5Cl3N2
reactant | triethylamine | 0.011 mol, 1.55 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-isopropylaminocarbonyl-4-chloro-3-(3,5-dichlorophenyl)pyrazole | 2.10 g | C(C)(C)NC(=O)N1N=C(C(=C1)Cl)C1=CC(=CC(=C1)Cl)Cl | C13H12Cl3N3O
